US08309580B2
(1) ethyl 5-(4-chlorophenyl)-2-methyl-3-furoate
A mixture of 5-(4-chlorophenyl)-2-methyl-3-furancarboxylic acid (4.7 g), potassium carbonate (2.8 g) and ethyl iodide (3.7 g) in N,N-dimethylformamide (50 mL) was stirred at room temperature for 4 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 20% ethyl acetate/hexane) to give the title compound (5.0 g, 95%) as a yellow crystal.

reactant | 5-(4-chlorophenyl)-2-methyl-3-furancarboxylic acid | 4.7 g | ClC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)O | C12H9ClO3
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 3.7 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(4-chlorophenyl)-2-methyl-3-furoate | 5.0 g, 95% | ClC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OCC | C14H13ClO3
